US09278980B2
In an alternate embodiment, a method is described of producing a monomer wherein the method begins by dissolving 3-fluoro-4,6 dihydrothieno[3,4-b]thiophene in tetrahydrofuran in a non-oxygen atmosphere to create a solution. An initiator of n-butyllithium is then added to the solution to produce an initiated solution. This is followed by adding N-fluorobenzenesulfonimide to the initiated solution to produce 2,3-difluoro-4,6-dihydrothieno[3,4-b]thiophene. 2,3-difluoro-4,6-dihydrothieno[3,4-b]thiophene is then oxidized with meta-chloroperoxybenzoic acid to produce 2,3-difluorothieno[3,4-b]thiophene. 2,3-difluorothieno[3,4-b]thiophene is then bromoated with N-bromosuccinimide to produce 4,6-dibromo-2,3-difluorothieno[2,3-c]thiophene. The final step involves debrominating 4,6-dibromo-2,3-difluorothieno[2,3-c]thiophene and adding an aryl group to produce the monomer

reactant | 3-fluoro-4,6 dihydrothieno[3,4-b]thiophene | FC=1C2=C(SC1)CSC2 | C6H5FS2
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-fluorobenzenesulfonimide | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | oxygen | O=O | O2
product | 2,3-difluoro-4,6-dihydrothieno[3,4-b]thiophene | FC1=C(C2=C(S1)CSC2)F | C6H4F2S2
